US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-6-methanesulfonyl-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (25)
A mixture of 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (0.07 g, 0.1 mmol), copper(II) triflate (0.05 g, 0.1 mmol), N,N′-dimethylethylenediamine (0.04 mL, 0.4 mmol), sodium methanesulfinate (0.02 g, 0.2 mmol) was charged in a sealed tube with DMSO (5 mL). The tube was capped and the solution was degassed with argon for 5 minutes. The mixture was heated in a microwave at 110° C. for 40 minutes and cooled to room temperature. The solution was diluted with ethyl acetate (30 mL) and washed with saturated aqueous ammonium chloride (10 mL), saturated aqueous NaHCO3 (5 mL) and brine (5 mL) and dried over sodium sulfate. The solvent was removed in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 20-50% ethyl acetate in hexanes to afford the title compound.

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | 0.1 mmol, 0.07 g | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)Br)C2=CC=C(C=C2)F)C=C1 | C22H18BrFN4O3S
reactant | N,N′-dimethylethylenediamine | 0.4 mmol, 0.04 mL | CNCCNC | C4H12N2
reactant | sodium methanesulfinate | 0.2 mmol, 0.02 g | CS(=O)[O-].[Na+]
catalyst | copper(II) triflate | 0.1 mmol, 0.05 g | [O-]S(=O)(=O)C(F)(F)F.[Cu+2].[O-]S(=O)(=O)C(F)(F)F
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 1-(4-Fluoro-phenyl)-6-methanesulfonyl-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)S(=O)(=O)C)C2=CC=C(C=C2)F)C=C1 | C23H21FN4O5S2
